US06716863B2
(iv) 1-[3-(3-benzyloxyphenyl)propyl]-1H-1,2,3-triazole
In an argon atmosphere, 1H-1,2,3-triazole (0.9 g) was dissolved in DMF (20 ml); 65% oily sodium hydride (0.48 g) was added. After stirring for 30 minutes, a solution of benzyl 3-(3-iodopropyl)phenyl ether (3.53 g) in DMF (5 ml) was added, followed by stirring at room temperature for 19 hours. The reaction mixture was diluted with ethyl acetate and washed with water and saturated saline. Under reduced pressure, the solvent was distilled off; the residue was subjected to column chromatography to yield the titled compound (1.1 g) as colorless crystals.

reactant | 1H-1,2,3-triazole | 0.9 g | N1N=NC=C1 | C2H3N3
reactant | sodium hydride | 0.48 g | [H-].[Na+]
reactant | benzyl 3-(3-iodopropyl)phenyl ether | 3.53 g | ICCCC=1C=C(C=CC1)OCC1=CC=CC=C1 | C16H17IO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[3-(3-benzyloxyphenyl)propyl]-1H-1,2,3-triazole | 1.1 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCCN1N=NC=C1 | C18H19N3O
